US07666868B2
A2. [2-((E)-3-{1-[4-(6-Methoxy-pyridin-3-yl)benzenesulfonyl]-1H-pyrrol-3-yl}-allanoylamino)-phenyl]-carbamic acid tert-butyl ester
To mixture of 0.3 g (2-{(E)-3-[1-(4-Iodo-benzenesulfonyl)-1H-pyrrol-3-yl]-allanoylamino}-phenyl)-carbamic acid tert-butyl ester, 0.116 g 2-methoxy-5-pyridineboronic acid and 11 ml dimethoxyethane are added under an inert gas atmosphere 0.9 ml of an aqueous solution of 2N sodium sulfate and 70 mg of bis-(triphenylphosphine)palladium-(II)chloride. The mixture is refluxed for 24 h and after filtration and evaporation the residue is extracted between ethyl acetate and a 5% aqueous solution of sodium bicarbonate. The organic phase is dried and evaporated and th4e crude product is purified by silica gel flash chromatography. 87% of a colorless solid are obtained.

reactant | (2-{(E)-3-[1-(4-Iodo-benzenesulfonyl)-1H-pyrrol-3-yl]-allanoylamino}-phenyl)-carbamic acid tert-butyl ester | 0.3 g | C(C)(C)(C)OC(NC1=C(C=CC=C1)NC(\C=C\C1=CN(C=C1)S(=O)(=O)C1=CC=C(C=C1)I)=O)=O | C24H24IN3O5S
reactant | 2-methoxy-5-pyridineboronic acid | 0.116 g | COC1=NC=C(C=C1)B(O)O | C6H8BNO3
reactant | sodium sulfate | 2N | S(=O)(=O)([O-])[O-].[Na+].[Na+]
catalyst | bis-(triphenylphosphine)palladium-(II)chloride | 70 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
solvent | dimethoxyethane | 11 ml | C(OC)COC | C4H10O2
product | [2-((E)-3-{1-[4-(6-Methoxy-pyridin-3-yl)benzenesulfonyl]-1H-pyrrol-3-yl}-allanoylamino)-phenyl]-carbamic acid tert-butyl ester | 87% | C(C)(C)(C)OC(NC1=C(C=CC=C1)NC(\C=C\C1=CN(C=C1)S(=O)(=O)C1=CC=C(C=C1)C=1C=NC(=CC1)OC)=O)=O | C30H30N4O6S
